US06291455B1
Concentrated hydrochloric acid (30 ml) was added to a suspension of 5-methoxy-4-(3-morpholinopropoxy)-2-nitrobenzamide (5.67 g) in methanol (150 ml) and the mixture was heated to 60° C. When the 5-methoxy-4-(3-morpholinopropoxy)-2-nitrobenzamide had dissolved, iron powder (5.6 g, 100 mmol) was added in portions to the reaction mixture which was then heated for 90 minutes. After cooling, the insolubles were removed by filtration through diatomaceous earth, the volatiles were removed from the filtrate by evaporation and the residue was purified on a Diaion (trade mark of Mitsubishi) HP20SS resin column, eluting with water and then with hydrochloric acid (pH2). Concentration of the fractions by evaporation gave a precipitate which was collected by filtration and dried under vacuum over phosphorus pentoxide to give 2-amino-5-methoxy-4-(3-morpholinopropoxy)benzamide as a hydrochloride salt (4.67 g, 75%) as beige crystals.

reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | 5-methoxy-4-(3-morpholinopropoxy)-2-nitrobenzamide | 5.67 g | COC=1C(=CC(=C(C(=O)N)C1)[N+](=O)[O-])OCCCN1CCOCC1 | C15H21N3O6
solvent | methanol | 150 ml | CO | CH4O
catalyst | iron | 100 mmol, 5.6 g | [Fe] | Fe
product | 2-amino-5-methoxy-4-(3-morpholinopropoxy)benzamide | NC1=C(C(=O)N)C=C(C(=C1)OCCCN1CCOCC1)OC | C15H23N3O4
